US04722929
2-Methoxy-8-(2-methoxy-4-chloro-5-methylaminosulfonyl-phenyl)-purine
Prepared analogously to Example 11 from 2-methoxy-8-(2-methoxy-4-chloro-5-chlorosulfonyl-phenyl)-purine and aqueous methylamine solution.

reactant | 2-methoxy-8-(2-methoxy-4-chloro-5-chlorosulfonyl-phenyl)-purine | COC1=NC=C2NC(=NC2=N1)C1=C(C=C(C(=C1)S(=O)(=O)Cl)Cl)OC | C13H10Cl2N4O4S
reactant | methylamine | CN | CH5N
product | 2-Methoxy-8-(2-methoxy-4-chloro-5-methylaminosulfonyl-phenyl)-purine | COC1=NC=C2NC(=NC2=N1)C1=C(C=C(C(=C1)S(=O)(=O)NC)Cl)OC | C14H14ClN5O4S
